US06706663B2
Preparation of 1-Methyl-3-[3-(1,3-oxathian-2-yl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)uracil
A mixture of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxaldehyde (2.86 g, 8.05 mmol), 3-mercapto-1-propanol (0.600 ml, 6.84 mmol), bismuth (III) chloride (0.090 g, 0.285 mol) and acetonitrile is stirred overnight at room temperature. Additional 3-mercapto-1-propanol (0.200 ml, 2.31 mmol) and bismuth (III) chloride are added and the resultant mixture is concentrated in vacuo. The residue is chromatographed with ethyl acetate-hexanes to afford a solid, which is taken up in diethyl ether, washed with water, once with brine and dried over anhydrous magnesium sulfate. Concentration in vacuo affords the title compound as a white solid (1.15 g, 33.2%, mp 125-130° C.) which is identified by NMR spectral analysis.

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxaldehyde | 8.05 mmol, 2.86 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C=O)C1)=O | C14H8F3N3O3S
reactant | 3-mercapto-1-propanol | 6.84 mmol, 0.600 ml | SCCCO | C3H8OS
reactant | bismuth (III) chloride | 0.285 mol, 0.090 g | [Bi](Cl)(Cl)Cl
reactant | acetonitrile | C(C)#N | C2H3N
reactant | 3-mercapto-1-propanol | 2.31 mmol, 0.200 ml | SCCCO | C3H8OS
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-Methyl-3-[3-(1,3-oxathian-2-yl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)uracil | 1.15 g, 33.2% | CN1C(=O)N(C(=O)C=C1C(F)(F)F)C=1C=CC2=C(C(=NS2)C2OCCCS2)C1 | C17H14F3N3O3S2
